US05942645
PL 137 526 describes the hydrogenation of p-tert-butylphenol to give p-tert-butylcyclohexanol using a nickel catalyst.

reactant | p-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
catalyst | nickel | [Ni] | Ni
product | p-tert-butylcyclohexanol | C(C)(C)(C)C1CCC(CC1)O | C10H20O
